US09062050B2
Step 1: Benzyl-(6-fluoroindan-1-ylidene)-amine
Combine 6-fluoroindan-1-one (14.57 g, 97.04 mmol) and benzylamine (10.60 mL, 97.04 mmol) in toluene (75 mL). Add p-toluenesulfonic acid monohydrate (0.923 g, 4.85 mmol). Attach a reflux condenser and heat the mixture under nitrogen to reflux over six hours, then stir at room temperature for 14 hours. Extract the mixture with ethyl acetate and water. Dry the resulting organics with magnesium sulfate, filter, and concentrate in vacuo to give the title compound as a red oil (23.22 g, 100%). MS (ES) m/z=240 [M+1].

reactant | 6-fluoroindan-1-one | 97.04 mmol, 14.57 g | FC1=CC=C2CCC(C2=C1)=O | C9H7FO
reactant | benzylamine | 97.04 mmol, 10.60 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 4.85 mmol, 0.923 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Benzyl-(6-fluoroindan-1-ylidene)-amine | 23.22 g, 100% | C(C1=CC=CC=C1)N=C1CCC2=CC=C(C=C12)F | C16H14FN
